US07071201B2
(293-1) 3,3-Dimethyl-6-bromoindolin-2-one
3,3-Dimethyl-6-bromoindoline (3.10 g), 1-[2-(4-fluorophenyl)ethyl]-4-piperidone (2.81 g) and triacetoxylated sodium borohydride (5.70 g) were treated as in Example 16 to give the title compound (2.72 g) as a white amorphous solid (yield: 49.8%).

reactant | 3,3-Dimethyl-6-bromoindoline | 3.10 g | CC1(CNC2=CC(=CC=C12)Br)C | C10H12BrN
reactant | 1-[2-(4-fluorophenyl)ethyl]-4-piperidone | 2.81 g | FC1=CC=C(C=C1)CCN1CCC(CC1)=O | C13H16FNO
product | 3,3-Dimethyl-6-bromoindolin-2-one | 2.72 g | CC1(C(NC2=CC(=CC=C12)Br)=O)C | C10H10BrNO
